US04476131
dl-7-Hydroxy-6-(3-hydroxypropyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-lH-pyrido[1,2-a]quinoline
A 125 ml., round bottomed flask equipped with a magnetic stirrer and nitrogen inlet is thoroughly flushed with dry nitrogen. Lithium aluminum hydride, 158 mg. (4.2 mmole) and 50 ml. of dry ethyl ether were added and the suspension stirred and cooled in an ice bath. To the cooled mixture is added slowly 1.89 g. (4.2 mmole) methyl dl-3-[7-hydroxy-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]-quinolin-6-yl]propionate dissolved in 20 ml. of ether. The cooling bath is removed and the reaction mixture is stirred at room temperature for 12 hours. Ethyl acetate, 50 ml., is cautiously added to quench the reaction. The resulting mixture is washed with 50 ml. each of saturated sodium bicarbonate solution, brine and water. The organic layer is dried over anhydrous magnesium sulfate, solvent evaporated in vacuo. The residue is purified by chromatography on silica gel.

reactant | 3-[7-hydroxy-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-1H-pyrido[1,2-a]-quinolin-6-yl]propionate | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCC(=O)[O-]
solvent | ether | CCOCC | C4H10O
product | 7-Hydroxy-6-(3-hydroxypropyl)-9-(5-phenyl-2-pentyloxy)-2,3,4,4a,5,6-hexahydro-lH-pyrido[1,2-a]quinoline | OC1=C2C(CC3N(C2=CC(=C1)OC(C)CCCC1=CC=CC=C1)CCCC3)CCCO | C27H37NO3
